US08084485B2
To a stirred suspension solution of LiAlH4 (28.5 g, 0.75 mol) in anhydrous THF (1 L) at 0° C. under N2 was added dropwise over 30 min a solution of (S)-2-(benzyloxymethyl)-3-methylbutanoic acid (66 g, 0.30 mol) in anhydrous THF (500 mL). The reaction mixture was warmed to rt and stirred overnight. After the mixture was cooled to 0° C., water (29 mL) was added dropwise, followed by 10% aq NaOH (29 mL). The mixture was filtered and the filtrate was evaporated. The residue was partitioned between EtOAc and water and extracted with EtOAc (3×). The combined organic layers were washed with brine, dried over Na2SO4, filtered and evaporated to give (R)-2-(benzyloxymethyl)-3-methylbutan-1-ol (54 g, 86%). 1H NMR (400 MHz, CDCl3): 0.92 (m, 6H), 1.66 (m, 1H), 1.77 (m, 1H), 2.70 (brs, 1H), 3.59 (m, 4H), 4.51 (m, 2H), 7.30 (m, 5H).

reactant | LiAlH4 | 0.75 mol, 28.5 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (S)-2-(benzyloxymethyl)-3-methylbutanoic acid | 0.30 mol, 66 g | C(C1=CC=CC=C1)OC[C@@H](C(=O)O)C(C)C | C13H18O3
reactant | water | 29 mL | O | H2O
reactant | NaOH | 29 mL | [OH-].[Na+]
solvent | THF | 1 L | C1CCOC1 | C4H8O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | (R)-2-(benzyloxymethyl)-3-methylbutan-1-ol | 54 g, 86% | C(C1=CC=CC=C1)OC[C@@H](CO)C(C)C | C13H20O2
